US04160036
(a) 3-(4-Fluorophenyl)-2,2-dimethyl-1-propanal
A mixture of sodium hydroxide (4.2 g), water (4.2 g), benzene (6 ml) and tetrabutylammonium iodide (0.45 g) was heated to 70°. A solution of isobutyraldehyde (8.65 g) and 4-fluorobenzyl chloride (13.01 g) was dripped into the mixture which was stirred at 70° for 5 hr. The product was extracted into ether, the solution was dried (MgSO4) and evaporated to give an oil b.p. 80°/1.0 mm (15.30 g).

reactant | sodium hydroxide | 4.2 g | [OH-].[Na+]
reactant | water | 4.2 g | O | H2O
reactant | isobutyraldehyde | 8.65 g | C(C(C)C)=O | C4H8O
reactant | 4-fluorobenzyl chloride | 13.01 g | FC1=CC=C(CCl)C=C1 | C7H6ClF
catalyst | tetrabutylammonium iodide | 0.45 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | benzene | 6 ml | C1=CC=CC=C1 | C6H6
product | 3-(4-Fluorophenyl)-2,2-dimethyl-1-propanal | FC1=CC=C(C=C1)CC(C=O)(C)C | C11H13FO
